US07320986B2
4-{[2-(trimethylsilyl)ethoxy]methoxy}cyclohexanol
Cyclohexane-1,4-diol (4 g, 34.8 mmol) was dissolved in THF (200 mL). To this solution was added 95% NaH (0.922 g, 36.6 mmol). The mixture was heated to reflux for 1 hour. Then 10 the reaction was cooled down. SEMCl (6.44 mL, 36.6 mmol) was added dropwise. The reaction mixture was heated to reflux again overnight. THF was removed. The residue was purified by flash chromatography to give the desired product (2.10 g, 16%). MS (DCI/NH3) m/z 247 (M+H)+; 1H NMR (400 MHz, CDCl3) δ ppm 0.02 (s, 9H) 0.87-0.95 (m, 2H) 1.30-1.38 (m, 2H) 1.57 (m, 1H) 1.64-1.70 (m, 2H) 1.80 (m, 1H) 1.91-2.01 (m, 2H) 3.50-3.70 (m, 4H) 4.69 (s, 2H).

reactant | Cyclohexane-1,4-diol | 34.8 mmol, 4 g | C1(CCC(CC1)O)O | C6H12O2
reactant | NaH | 36.6 mmol, 0.922 g | [H-].[Na+]
reactant | SEMCl | 36.6 mmol, 6.44 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-{[2-(trimethylsilyl)ethoxy]methoxy}cyclohexanol | 2.10 g, 16% | C[Si](CCOCOC1CCC(CC1)O)(C)C | C12H26O3Si
